US05789406
1.2 ml of dimethylcarbamoyl chloride are added dropwise to 1.5 g of 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one and 0.15 g of 4-dimethylaminopyridine in 45 ml of pyridine. After reacting for 5 hours at a temperature in the region of 20° C., 1.2 ml of dimethylcarbamoyl chloride are again added. The reaction is continued overnight at the same temperature and the reaction mixture is then heated at 50° C. for 1 hour. After cooling, the insoluble material is filtered, washed with water and dried. The solid thus obtained is recrystallized from dimethylformamide, washed with water and then dried under partial vacuum (1 mm Hg, 0.13 kPa) at 50° C. There is obtained 0.3 g of 8-(3,3-dimethylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one dihydrate in the form of a pink solid, the melting point of which is greater than 260° C. (Analysis C16H15N5 O2.2H2O, % calculated C: 62.13, H: 4.89, N: 22.64, % found C: 62.2, H: 4.6, N: 22.4).

reactant | dimethylcarbamoyl chloride | 1.2 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | 1.5 g | NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1 | C13H10N4O
reactant | dimethylcarbamoyl chloride | 1.2 ml | CN(C(=O)Cl)C | C3H6ClNO
catalyst | 4-dimethylaminopyridine | 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
product | 8-(3,3-dimethylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one dihydrate | 0.3 g | O.O.CN(C(NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)=O)C | InChI=1S/C16H15N5O2.2H2O/c1-20(2)16(23)18-10-3-4-11-9(7-10)8-12-13(11)19-15(22)14-17-5-6-21(12)14;;/h3-7H,8H2,1-2H3,(H,18,23)(H,19,22);2*1H2
